US07049310B2
a) 5-Bromo-3-[N-(tert-butoxycarbonyl)-N-methylaminomethyl]-2-[N-(tert-butoxycarbonyl)amino]pyridine
To a solution of 2-amino-5-bromo-3-(methylaminomethyl)pyridine (3.8 g, 17.6 mmole), from Preparation 5 (a), in THF was added di-tert-butyl dicarbonate (8.8 g, 40.5 mmole). The reaction was heated to reflux for 12 hr then was concentrated under vacuum. Flash chromatography on silica gel (1:1 hexanes/EtOAc) gave the title compound (6.2 g, 85%) as a white waxy solid: MS (ES) m/e 416 (M+H)+.

reactant | 2-amino-5-bromo-3-(methylaminomethyl)pyridine | 17.6 mmole, 3.8 g | NC1=NC=C(C=C1CNC)Br | C7H10BrN3
reactant | di-tert-butyl dicarbonate | 40.5 mmole, 8.8 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
solvent | THF | C1CCOC1 | C4H8O
product | 5-Bromo-3-[N-(tert-butoxycarbonyl)-N-methylaminomethyl]-2-[N-(tert-butoxycarbonyl)amino]pyridine | 6.2 g, 85% | BrC=1C=C(C(=NC1)NC(=O)OC(C)(C)C)CN(C)C(=O)OC(C)(C)C | C17H26BrN3O4
